US08017604B2
Step 3: 4-(Azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid
NaOH (1N, 10 ml) was added to a solution of 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (1.32 g, 5.0 mmol) in THF (50 ml), and the mixture was stirred at r.t. (3.5 h). The mixture was neutralized by addition of HCl (1N, 10 ml). The mixture was evaporated under vacuum and the title compound, containing theoretically 2 equiv. of NaCl, (1.72 g, 99%) was used in Step 6 without further purification. MS (m/e)=210.2 [M+H+].

reactant | NaOH | 1N, 10 ml | [OH-].[Na+]
reactant | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | 5.0 mmol, 1.32 g | C(C)OC(=O)C=1N(N=CC1C(=O)N1CCC1)C | C11H15N3O3
reactant | HCl | 1N, 10 ml | Cl | ClH
reactant | NaCl | 1.72 g, 2 equiv. | [Na+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(Azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid | N1(CCC1)C(=O)C1=C(N(N=C1)C)C(=O)O | C9H11N3O3
